US06353017B1
A solution of 3-(chloromethyl)-benzoic acid (50.0 g, 0.293 mol), potassium carbonate (48.61 g, 0.352 mol) and allyl bromide (50.7 mL, 0.586 mol) in acetone (500 mL) is refluxed for 2 hours, after which time the solution was cooled to room temp. and filtered through celite. The filtrate is evaporated and the residue chromatographed (silica, 5% EtOAc/hexane) to yield allyl 3-(chloromethyl)-benzoate as a clear oil.

reactant | 3-(chloromethyl)-benzoic acid | 0.293 mol, 50.0 g | ClCC=1C=C(C(=O)O)C=CC1 | C8H7ClO2
reactant | potassium carbonate | 0.352 mol, 48.61 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 0.586 mol, 50.7 mL | C(C=C)Br | C3H5Br
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | allyl 3-(chloromethyl)-benzoate | ClCC=1C=C(C(=O)OCC=C)C=CC1 | C11H11ClO2
